US07687511B2
Synthesis of 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-[2-methoxy-6-pentadecylphenyl]-5-pyrimidinecarboxylic acid ethyl ester
The reaction mixture containing 2-[[2-methoxy-6-pentadecyl phenyl]methylene]-3-oxobutanoic acid ethyl ester (3 g, 6.6 mmol), 2-((4-methoxyphenyl)methyl)-2-thiopseudourea hydrochloride (1.2 g, 6.6 mmol), and sodium acetate (0.6 g, 7 mmol) in dimethylformamide (30 mL) was heated at 70° C. for 4 h. The reaction was cooled to room temperature, diluted with ether, and filtered. The filtrate was washed with water, sodium bicarbonate, and brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the compound was obtained as brown viscous liquid.

reactant | 2-[[2-methoxy-6-pentadecyl phenyl]methylene]-3-oxobutanoic acid ethyl ester | 6.6 mmol, 3 g | C(C)OC(C(C(C)=O)=CC1=C(C=CC=C1CCCCCCCCCCCCCCC)OC)=O | C29H46O4
reactant | 2-((4-methoxyphenyl)methyl)-2-thiopseudourea hydrochloride | 6.6 mmol, 1.2 g | Cl.COC1=CC=C(C=C1)CSC(N)=N
reactant | sodium acetate | 7 mmol, 0.6 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-[2-methoxy-6-pentadecylphenyl]-5-pyrimidinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(N=C(NC1C)SCC1=CC=C(C=C1)OC)C1=C(C=CC=C1CCCCCCCCCCCCCCC)OC | C38H56N2O4S
